US06855710B2
a) N-morpholinomethylcarbonyl-4-nitroaniline
2.6 g (30 mmol) of morpholine and 4.2 g (30 mmol) of potassium carbonate are suspended in 120 ml of acetone. 5.3 g (20 mmol) of N-bromoacetyl-4-nitro-aniline, dissolved in 80 ml of acetone, are added dropwise over a period of 20 minutes and then stirred for 2 hours at ambient temperature. The precipitate is filtered off and the solvent is eliminated in vacuo. The residue is suspended with water. The precipitate is suction filtered and dried in a drying cupboard.

reactant | morpholine | 30 mmol, 2.6 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 30 mmol, 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-bromoacetyl-4-nitro-aniline | 20 mmol, 5.3 g | BrCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H7BrN2O3
solvent | acetone | 120 ml | CC(=O)C | C3H6O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | N-morpholinomethylcarbonyl-4-nitroaniline | O1CCN(CC1)CC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O4
